US05620979
1,2-Diamino-3,4,5,6-tetrachlorobenzene was prepared using an adaptation of the method of Bellamy et al. (Bellamy, F. D. et al., Tetrahedron Lett. 25: 839 (1984)). A mixture of 1,2-dinitro-3,4,5,6-tetrachlorobenzene (1.00 g, 3.27 mmol) and SnCl2.2H2O (3.69 g, 16.4 mmol) dissolved in 10 mL ethyl acetate and 5 mL absolute ethanol under N2 was heated at 80° C. for 1 h. The reaction was allowed to cool to room temperature and poured into 20 mL crushed ice. Sufficient sat'd NaHCO3 solution was adding (foaming!) to bring the pH to 6. The thick white emulsion was extracted with 3×25 mL ethyl acetate and the combined organic extracts washed with sat'd NaCl solution. The organic phase was dried (MgSO4), vacuum filtered and the solvent rotary evaporated to yield a brown solid 569 mg (71%). 1H NMR (CDCl3) δ 3.96 (br s, 2(NH2)). 13C NMR (CDCl3) δ 118.2, 127.0, 132.0.

reactant | 1,2-dinitro-3,4,5,6-tetrachlorobenzene | 3.27 mmol, 1.00 g | [N+](=O)([O-])C1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)[N+](=O)[O-] | C6Cl4N2O4
reactant | SnCl2.2H2O | 16.4 mmol, 3.69 g | O.O.Cl[Sn]Cl
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 1,2-Diamino-3,4,5,6-tetrachlorobenzene | NC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)N | C6H4Cl4N2
